US07745475B2
tert-Butyl 3-[(3-(benzyloxy)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoyl)amino]-1H-pyrazole-1-carboxylate
DIPEA (0.21 mL, 1.2 mmol) was added to a solution of 3-(benzyloxy)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoic acid (220 mg, 0.48 mmol), HATU (228 mg, 0.6 mmol), and tert-butyl 3-amino-1H-pyrazole-1-carboxylate (110 mg, 0.66 mmol) in DMF (2 mL) and the reaction mixture stirred at ambient temperature overnight. Water was added to the reaction mixture and extracted with ethyl acetate (3×25 mL). The combined organic extracts were separated and washed with 1M hydrochloric acid, saturated sodium hydrogen carbonate solution, saturated brine solution, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography on silica, eluting with 0% to 50% ethyl acetate in hexanes, to give a clear oil (90 mg)

reactant | DIPEA | 1.2 mmol, 0.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(benzyloxy)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoic acid | 0.48 mmol, 220 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)O[C@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C26H38O5Si
reactant | HATU | 0.6 mmol, 228 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl 3-amino-1H-pyrazole-1-carboxylate | 0.66 mmol, 110 mg | NC1=NN(C=C1)C(=O)OC(C)(C)C | C8H13N3O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | tert-Butyl 3-[(3-(benzyloxy)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoyl)amino]-1H-pyrazole-1-carboxylate | 90 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)C=C(C1)O[C@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C34H49N3O6Si
